US06770667B1
To a suspension of 1-fluorenecarboxylic acid (184 mg) and oxalyl chloride (0.2 ml) in dichloromethane (4 ml) was added N,N-dimethylformamide (0.01 ml), and the mixture was stirred for 2 hours. The resultant solution was evaporated to give a crude acid chloride. To a suspension of 3-pyridazin-3-yl-phenylamine (150 mg) and pyridine (0.21 ml) in dichloromethane (2 ml) was dropwise added a solution of the acid chloride obtained above in dichloromethane. (5 ml) followed by stirring for an hour. The mixture was diluted with dichloromethane and washed with an aqueous solution of sodium hydrogen carbonate and brine. The separated organic layer was dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by a silica gel column chromatography eluting with 2% methanol in dichloromethane to give N-(3-(pyridazin-3-yl)phenyl)-9H-fluorene-1-carboxamide (44 mg, 13.8%).

reactant | 1-fluorenecarboxylic acid | 184 mg | C1(=CC=CC=2C3=CC=CC=C3CC12)C(=O)O | C14H10O2
reactant | oxalyl chloride | 0.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.01 ml | CN(C=O)C | C3H7NO
reactant | 3-pyridazin-3-yl-phenylamine | 150 mg | N1=NC(=CC=C1)C=1C=C(C=CC1)N | C10H9N3
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | pyridine | 0.21 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-(pyridazin-3-yl)phenyl)-9H-fluorene-1-carboxamide | 44 mg, 13.8% | N1=NC(=CC=C1)C=1C=C(C=CC1)NC(=O)C1=CC=CC=2C3=CC=CC=C3CC12 | C24H17N3O
